US05102891
1-[(3-Fluoro-4-pyridinyl)propylamino]-3-methyl-1H-indol-5-yl heptylcarbamate
To a solution consisting of 1-[(3-fluoro-4-pyridinyl)propylamino]-3-methyl-1H-indol-5-ol (2.54 g) and anhydrous tetrahydrofuran (57 ml) was added carbonyl diimidazole (2.75 g) under nitrogen with stirring. The resulting reaction mixture was stirred at room temperature for two days, at which time acetic acid (1.65 ml) was added followed by a solution of heptylamine (1.89 ml) in tetrahydrofuran (5 ml) and acetic acid (0.76 ml). After stirring for 24 hours, an additional equivalent of heptylamine (1.26 ml) in tetrahydrofuran (5 ml) and acetic acid (0.52 ml) was added. After an additional 24 hours the reaction was complete and the reaction mixture was poured into NaHCO3 (aq.) and ether. The layers were separated and the aqueous phase was extracted with ether (3x). The combined organic layers were washed successively with NaHCO3 (aq.) and brine. Drying (Na2SO4), filtration and concentration gave a crude product. Purification via flash column chromatography (silica gel, 30% EtOAc/hexane) afforded 3.38 g of the desired product as an oil. Addition of ether and pentane solidified the product. The solid was filtered and washed with pentane, m.p. 90°-93° C.

reactant | 1-[(3-fluoro-4-pyridinyl)propylamino]-3-methyl-1H-indol-5-ol | 2.54 g | FC=1C=NC=CC1CCCNN1C=C(C2=CC(=CC=C12)O)C | C17H18FN3O
reactant | carbonyl diimidazole | 2.75 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | heptylamine | 1.89 ml | C(CCCCCC)N | C7H17N
reactant | heptylamine | 1.26 ml | C(CCCCCC)N | C7H17N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 0.76 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 0.52 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1.65 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 57 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 1-[(3-Fluoro-4-pyridinyl)propylamino]-3-methyl-1H-indol-5-yl heptylcarbamate | 3.38 g | C(CCCCCC)NC(OC=1C=C2C(=CN(C2=CC1)NCCCC1=C(C=NC=C1)F)C)=O | C25H33FN4O2
